US08039463B2
Mono ethyl malonyl chloride (375 mg, 2.49 mmol) was added dropwise to a stirred solution of 4-phenyl-thiazol-2-ylamine (400 mg, 2.26 mmol) and DIEA (733 mg, 5.67 mmol) in CHCl3 (4 mL) at 0° C. and the resulting mixture was stirred for 20 minutes at room temperature. The mixture was diluted with water (5 mL) and extracted with chloroform. The organic layer was washed with saturated sodium bicarbonate solution, brine, dried over Na2SO4, and concentrated to afford 302 mg (46%) of N-(4-phenyl-thiazol-2-yl)-malonamic acid ethyl ester.

reactant | Mono ethyl malonyl chloride | 2.49 mmol, 375 mg | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | 4-phenyl-thiazol-2-ylamine | 2.26 mmol, 400 mg | C1(=CC=CC=C1)C=1N=C(SC1)N | C9H8N2S
reactant | DIEA | 5.67 mmol, 733 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 5 mL | O | H2O
solvent | CHCl3 | 4 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(4-phenyl-thiazol-2-yl)-malonamic acid ethyl ester | 302 mg, 46% | C(C)OC(CC(=O)NC=1SC=C(N1)C1=CC=CC=C1)=O | C14H14N2O3S
